US07674822B2
Methyl thioglycolate (1.1 ml, 12 mmol) was added to a solution of 3-trifluoromethanesulfonyloxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methy ester in DCM (30 ml) and Et3N (15 ml) and stirred for 24 hr at RT then 24 hr at 40° C. When the starting material was absent in LC trace, water was added. Extraction with EtOAc and evaporation left an orange liquid. Purification by column chromatography yielded 2.7 g (70%) of 3-methoxycarbonylmethylsulfanyl-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methyl ester.

reactant | Methyl thioglycolate | 12 mmol, 1.1 ml | C(CS)(=O)OC | C3H6O2S
reactant | 3-trifluoromethanesulfonyloxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methy ester | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F | C16H15F3O7S2
reactant | water | O | H2O
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | Et3N | 15 ml | CCN(CC)CC | C6H15N
product | 3-methoxycarbonylmethylsulfanyl-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methyl ester | 2.7 g, 70% | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(=O)OC(C)(C)C)SCC(=O)OC | C18H20O6S2
